US08563571B2
Oxymorphone free base (5.0027 g) was combined with water (2.5 mL) and 2-propanol (6.0 mL) in a round bottom flask (250 mL). The resulting mixture was heated in a temperature controlled bath, with stirring, from ambient to 60° C. over a time period of approximately 30 minutes. Concentrated hydrochloric acid (1.8 mL) was added with continued stirring. The temperature was increased to 70° C. resulting in a clear solution and then cooled to 60° C. 2-propanol was added in 3-5 mL aliquots over approximately 5 minute time span. Solids were observed after the addition of the second aliquot. The resulting slurry was cooled from 60 to 5° C. over 190 minutes and stirred at 5° C. for 45 minutes. Tan solids in a brown solution were observed. The flask was removed from the bath, the contents were vacuum filtered and the solids rinsed 5 times with 1 mL aliquots of 2-propanol:water (9:1 v:v). The resulting white solids were allowed to air-dry for 2 days to yield Form B oxymorphone HCl.

reactant | Oxymorphone | 5.0027 g | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C17H19NO4
reactant | water | 2.5 mL | O | H2O
reactant | hydrochloric acid | 1.8 mL | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
solvent | 2-propanol | 6.0 mL | CC(C)O | C3H8O
product | oxymorphone HCl | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.Cl | InChI=1S/C17H19NO4.ClH/c1-18-7-6-16-13-9-2-3-10(19)14(13)22-15(16)11(20)4-5-17(16,21)12(18)8-9;/h2-3,12,15,19,21H,4-8H2,1H3;1H/t12-,15+,16+,17-;/m1./s1
